.SUBCKT gf180mcu_fd_sc_mcu9t5v0__clkbuf_3 I Z VDD VSS
*.PININFO I:I Z:O VDD:P VDD:P VSS:P VSS:G
*.EQN Z=I
M_i_2_0 Z_neg I VSS VSS nmos_6p0 W=0.550000U L=0.600000U
M_i_2_1 VSS I Z_neg VSS nmos_6p0 W=0.550000U L=0.600000U
M_i_0_0 Z Z_neg VSS VSS nmos_6p0 W=0.600000U L=0.600000U
M_i_0_1 VSS Z_neg Z VSS nmos_6p0 W=0.600000U L=0.600000U
M_i_0_2 Z Z_neg VSS VSS nmos_6p0 W=0.600000U L=0.600000U
M_i_0_3 VSS Z_neg Z VSS nmos_6p0 W=0.600000U L=0.600000U
M_i_3_0 Z_neg I VDD VDD pmos_6p0 W=1.375000U L=0.500000U
M_i_3_1 VDD I Z_neg VDD pmos_6p0 W=1.375000U L=0.500000U
M_i_1_0 Z Z_neg VDD VDD pmos_6p0 W=1.375000U L=0.500000U
M_i_1_1 VDD Z_neg Z VDD pmos_6p0 W=1.375000U L=0.500000U
M_i_1_2 Z Z_neg VDD VDD pmos_6p0 W=1.375000U L=0.500000U
M_i_1_3 VDD Z_neg Z VDD pmos_6p0 W=1.375000U L=0.500000U
.ENDS
